US08067621B2
4-(4-Chloro-benzenesulfonyl)-5,8-difluoro-3-methyl-chroman
Methanesulfonic acid O-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-3,4-dihydro-2H-1-benzopyran-3-yl-methyl]ester (0.5 g, 1.1 mmole), NaI (0.83 g, 5.5 mmole) Zinc dust (0.71 g, 11 mole) and 0.1 mL acetic acid were refluxed in 15 mL ethylene glycol dimethyl ether for 6 hours. The solid was filtered and the filtrate was partitioned between 100 mL 0.1N Na2SO3 solution and 100 mL EtOAc. The organic layer was washed with 0.5N NaOH solution (2×50 ml), brine, dried over Na2SO4 and concentrated. The residue was recrystallized from EtOAc/Hexane to pure product (0.33 g, 83%) 1H NMR (400 MHz, CDCl3) 7.71 (d, J=8.8 Hz, 2H), 7.50 (d, J=8.8 Hz, 2H), 7.03 (m, 1H), 6.40 (m, 1H), 4.92 (dd, J=11.7 and 2.9 Hz, 1H), 4.21 (m, 2H), 3.02 (m, 1H), 1.07 (d, J=7.3 Hz, 3H).

reactant | Methanesulfonic acid O-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-3,4-dihydro-2H-1-benzopyran-3-yl-methyl]ester | 1.1 mmole, 0.5 g | ClC1=CC=C(C=C1)S(=O)(=O)C1C(COC2=C1C(=CC=C2F)F)COS(=O)(=O)C | C17H15ClF2O6S2
reactant | NaI | 5.5 mmole, 0.83 g | [Na+].[I-]
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
solvent | ethylene glycol dimethyl ether | 15 mL | COCCOC | C4H10O2
product | 4-(4-Chloro-benzenesulfonyl)-5,8-difluoro-3-methyl-chroman | ClC1=CC=C(C=C1)S(=O)(=O)C1C(COC2=C(C=CC(=C12)F)F)C | C16H13ClF2O3S
